US08431575B2
To a solution of 3-azido-4,4-difluoro-piperidine-1-carboxylic acid tert-butyl ester (0.68 mmol, 0.18 g) in MeOH (4.0 mL), was added Pd—C (10% by wt, 30 mg) and stirred under H2 atmosphere (balloon) for 3 h. The catalyst was filtered and washed with DCM, and the filtrate was concentrated under reduced pressure to provide 3-amino-4,4-difluoro-piperidine-1-carboxylic acid tert-butyl ester.

reactant | 3-azido-4,4-difluoro-piperidine-1-carboxylic acid tert-butyl ester | 0.68 mmol, 0.18 g | C(C)(C)(C)OC(=O)N1CC(C(CC1)(F)F)N=[N+]=[N-] | C10H16F2N4O2
solvent | MeOH | 4.0 mL | CO | CH4O
catalyst | Pd—C | 30 mg | [Pd] | Pd
product | 3-amino-4,4-difluoro-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(C(CC1)(F)F)N | C10H18F2N2O2
